US04960779
A solution of 2-(7-methoxy-1,8-naphthyridin-2-yl)-3-(5-methyl-2-oxohexyl)-1-isoindolinone (16.2 g) in phosphoryl chloride (160 cc) is heated to 100° C. for 6 hours. The mixture is then cooled to a temperature in the region of 50° C. and concentrated to dryness under reduced pressure (2.7 kPa). The residue is treated with ice (150 g) and water (150 g). The mixture is then alkalinized with aqueous ammonia solution (d=0.92) to a pH in the region of 12, and extracted with ethyl acetate (3×300 cc). The organic phases are combined, washed with water (4×100 cc), dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is purified by chromatography on silica (300 g) contained in a column 4 cm in diameter (eluent: dichloromethane). Elution is first performed with 400 cc of solvent: the corresponding eluate is discarded; elution is then performed with 1800 cc of solvent and the corresponding eluate is concentrated to dryness under reduced pressure (2.7 kPa). After the residue obtained is recrystallized in acetonitrile, 2-(7-chloro-1,8-naphthyridin-2-yl)-3-(5-methyl-2-oxohexyl)-1-isoindolinone (6.4 g), m.p. 180° C., is obtained.

reactant | 2-(7-methoxy-1,8-naphthyridin-2-yl)-3-(5-methyl-2-oxohexyl)-1-isoindolinone | 16.2 g | COC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1CC(CCC(C)C)=O)=O | C24H25N3O3
reactant | phosphoryl chloride | 160 cc | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-(5-methyl-2-oxohexyl)-1-isoindolinone | 6.4 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1CC(CCC(C)C)=O)=O | C23H22ClN3O2
